US03948915
3.25 g of n-propyl cyanoacetimidate hydrochloride and 1.26 g of cyanamide were treated with the same manner as in Example 1 and 2.18 g of oily n-propyl N-cyanocyanoacetimidate was obtained (yield 72.1%). The structure of this compound was confirmed by IR and NMR. Analysis calculated for C7H9N3O C 55.62, H 6.00, N 27.80, found C 54.80, H 6.27, N 27.13.

reactant | n-propyl cyanoacetimidate hydrochloride | 3.25 g | Cl.C(#N)CC(OCCC)=N
reactant | cyanamide | 1.26 g | N#CN | CH2N2
product | n-propyl N-cyanocyanoacetimidate | 2.18 g, yield 72.1% | C(#N)N=C(CC#N)OCCC | C7H9N3O
